US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(4-BROMO-2-THIENYL)METHYL]AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 4-bromo-2-formylthiophene according to the procedure of step 1, Example 66. MS (ESI) m/z 553.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 4-bromo-2-formylthiophene | BrC=1C=C(SC1)C=O | C5H3BrOS
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(4-BROMO-2-THIENYL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1SC=C(C1)Br)C(F)(F)F | C28H20BrF3N2S
